US09375010B2
To a mixture of (2Z)-(hydroxyimino)(phenyl)acetonitrile (2.9 g, 19.84 mmol, 1 eq.), 2-bromo-4-(bromomethyl)thiazole (5.10 g, 19.84 mmol, 1 eq.), potassium iodide (329 mg, 1.98 mmol, 0.1 eq.) and caesium carbonate (9.70 g, 29.76 mmol, 1.5 eq.) was added 80 ml of acetonitrile and 10 ml of DMF. The reaction was stirred 2 h at room temperature. The solvent was then evaporated and the residue dissolved in EtOAc, subsequently washed with H2O and brine. After separation, the organic phase was dried over MgSO4 then concentrated. The residue was purified by chromatography on silica gel to give (2Z)-{[(2-bromo-1,3-thiazol-4-yl)methoxy]imino}(phenyl)acetonitrile (5.70 g, 88% yield, only 1 oxime isomer).

reactant | (2Z)-(hydroxyimino)(phenyl)acetonitrile | 19.84 mmol, 2.9 g, 1 eq. | O\N=C(/C#N)\C1=CC=CC=C1 | C8H6N2O
reactant | 2-bromo-4-(bromomethyl)thiazole | 19.84 mmol, 5.10 g, 1 eq. | BrC=1SC=C(N1)CBr | C4H3Br2NS
reactant | potassium iodide | 1.98 mmol, 329 mg, 0.1 eq. | [I-].[K+]
reactant | caesium carbonate | 29.76 mmol, 9.70 g, 1.5 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | (2Z)-{[(2-bromo-1,3-thiazol-4-yl)methoxy]imino}(phenyl)acetonitrile | 88% yield | BrC=1SC=C(N1)CO\N=C(/C#N)\C1=CC=CC=C1 | C12H8BrN3OS
